US06384080B1
A solution of benzyl alcohol (28 mg) in 1,2-dichloroethane (1 mL) was added dropwise to a solution of chlorosulfonyl isocyanate (37 mg) in 1,2-dichloroethane (2 mL) under 5° C. on an ice-salt bath. The mixture was stirred for one and a half hours at 4° C. To the mixture was added dropwise a mixture of (R)-5-cyano-N-(3,4-dimethoxybenzyl)-2-(3-pyrrolidinylamino)benzamide (100 mg) and triethylamine (40 mg) in 1,2-dichloroethane (3 mL) under 5° C. After addition, the reaction mixture was allowed to warm to ambient temperature and stirred overnight. The reaction mixture was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by a thin layer chromatography developed with 5% methanol in chloroform. The obtained product was triturated with diethyl ether to give (R)-2-[1-(N-benzyloxycarbonylsulfamoyl)pyrrolidin-3-ylamino]-5-cyano-N-(3,4-dimethoxybenzyl)benzamide (65 mg) as a syrup.

reactant | benzyl alcohol | 28 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | chlorosulfonyl isocyanate | 37 mg | ClS(=O)(=O)N=C=O | CClNO3S
reactant | (R)-5-cyano-N-(3,4-dimethoxybenzyl)-2-(3-pyrrolidinylamino)benzamide | 100 mg | C(#N)C=1C=CC(=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C1)N[C@H]1CNCC1 | C21H24N4O3
reactant | triethylamine | 40 mg | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | (R)-2-[1-(N-benzyloxycarbonylsulfamoyl)pyrrolidin-3-ylamino]-5-cyano-N-(3,4-dimethoxybenzyl)benzamide | 65 mg | C(C1=CC=CC=C1)OC(=O)NS(=O)(=O)N1C[C@@H](CC1)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)C#N | C29H31N5O7S
